US07863313B2
Preparation of 2-(2-hydroxyethoxy)-2-(4-hydroxy-3-methylphenyl)-1,3-dioxolane (Compound 1)
A mixture of 3-methyl-p-hydroxybenzaldehyde (0.5 g, 3.6 mmol), ethylene glycol (0.34 g, 5.5 mmol) and p-toluenesulfonic acid (0.07 g, 0.36 mmol) in toluene was heated under reflux. After 24 h, the reaction mixture was cooled to room temperature, TLC showed no starting material. The toluene was removed in vacuo and saturated solution of sodium hydrogen carbonate (20 ml) was added to the residue, which was then extracted with ethyl acetate (3×20 ml). The organic layer was washed with water (20 ml), dried over anhydrous sodium sulfate and the solvent was removed in vacuo. The residue was then recrystallised from an ethyl acetate and hexane mixture to give the product as a brown solid in 24% yield.

reactant | 3-methyl-p-hydroxybenzaldehyde | 3.6 mmol, 0.5 g | CC=1C=C(C=O)C=CC1O | C8H8O2
reactant | ethylene glycol | 5.5 mmol, 0.34 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.36 mmol, 0.07 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-hydroxyethoxy)-2-(4-hydroxy-3-methylphenyl)-1,3-dioxolane | 24% yield | OCCOC1(OCCO1)C1=CC(=C(C=C1)O)C | C12H16O5
